US08664220B2
Step 1: 3-Bromo-5-(2-chloro-3-fluoro-phenyl)-pyridine
Prepared according to the procedure described in Example 42, Step 2, using 3,5-dibromo-pyridine and 2-chloro-3-fluoro-phenylboronic acid.

reactant | 3,5-dibromo-pyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 2-chloro-3-fluoro-phenylboronic acid | ClC1=C(C=CC=C1F)B(O)O | C6H5BClFO2
product | 3-Bromo-5-(2-chloro-3-fluoro-phenyl)-pyridine | BrC=1C=NC=C(C1)C1=C(C(=CC=C1)F)Cl | C11H6BrClFN
